US04895861
(Step 1) Preparation of 2-Hydroxymethyl-3-methylnaphthalene
To a stirred solution of 3-methylnaphthalene-2-carboxaldehyde (3.40 g, 20 mmol) in dry THF (200 mL) cooled to 0° C. was added lithium aluminum hydride (LAH, 380 mg, 10 mmol), in portions over 10 minutes. The resulting solution was stirred at 0° C. for 1.5 hours. Excess LAH was quenched by the addition of H2O (50 mL) and the THF was removed in vacuo. The residue was diluted with 1N HCl (150 mL) and extracted with Et2O (3×200 mL). The organics were dried (MgSO4) and concentrated in vacuo to give the crude product as a tan solid. This material was purified by preparative HPLC (SiO2 : 1:1 CH2Cl2 /hexane) to afford the title compound as a white solid (2.47 g, 72%).

reactant | 3-methylnaphthalene-2-carboxaldehyde | 20 mmol, 3.40 g | CC=1C(=CC2=CC=CC=C2C1)C=O | C12H10O
reactant | lithium aluminum hydride | 10 mmol, 380 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-3-methylnaphthalene | 2.47 g, 72% | OCC1=CC2=CC=CC=C2C=C1C | C12H12O
